US08242125B2
132-A. (4-Chloro-5-cyclopropyl-isoxazol-3-yl)-carbamic acid phenyl ester
(5-Cyclopropyl-isoxazol-3-yl)-carbamic acid phenyl ester (0.25 g, 1.024 mmol) is dissolved in AcOH (7.31 mL) and NCS (0.205 g, 1.53 mmol) is added and the reaction is heated to 79° C. for 2 hours. The reaction is cooled to room temperature and diluted with water and ethyl acetate. The organic layer is washed with 500 mL of water to remove the acid. The organic layer is dried (sodium sulfate) and concentrated to an oil (352 mg) to obtain the title compound that is used without further purification. MS (ESI) m/z 279.00 (M+1).

reactant | (5-Cyclopropyl-isoxazol-3-yl)-carbamic acid phenyl ester | 1.024 mmol, 0.25 g | C1(=CC=CC=C1)OC(NC1=NOC(=C1)C1CC1)=O | C13H12N2O3
reactant | NCS | 1.53 mmol, 0.205 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | AcOH | 7.31 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Chloro-5-cyclopropyl-isoxazol-3-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=NOC(=C1Cl)C1CC1)=O | C13H11ClN2O3
